US04588813
The reaction of trimethylpyrazine and freshly distilled propionaldehyde is carried out as described in Example I on the same molar scale. Preparative thick layer chromatography (2000μ silica gel GF, developed in 5% acetone/hexane) of the crude reaction product gives a 48% yield of 1-(2,3,5-trimethyl-6-pyrazinyl)-1-propanone (mp 65°-67° C.).

reactant | trimethylpyrazine | CC=1N=C(C(=NC1)C)C | C7H10N2
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | acetone hexane | CC(=O)C.CCCCCC
product | 1-(2,3,5-trimethyl-6-pyrazinyl)-1-propanone | 48% yield | CC1=NC(=C(N=C1C)C)C(CC)=O | C10H14N2O
